US07049317B2
Using General Procedure C, (±)-trans-(2-aminocyclopentyl)-[3-(4-chloro-phenyl)propyl]carbamic acid tert-butyl ester (155 mg, 0.44 mmol) and 4-methanesulfonylbenzoic acid (105 mg, 0.53 mmol) were coupled in CH2Cl2 (3 mL) using HOBt (12 mg, 0.09 mmol) and DEC (106 mg, 0.66 mmol) at 0° C. for 2.5 hours to give 250 mg of (±)-trans-[3-(4-chlorophenyl)propyl]-[2-(4-methanesulfonylbenzoylamino)cyclopentyl]carbamic acid tert-butyl ester as a colorless oil.

reactant | (±)-trans-(2-aminocyclopentyl)-[3-(4-chloro-phenyl)propyl]carbamic acid tert-butyl ester | 0.44 mmol, 155 mg | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)Cl)[C@H]1[C@@H](CCC1)N)=O | C19H29ClN2O2
reactant | 4-methanesulfonylbenzoic acid | 0.53 mmol, 105 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | HOBt | 0.09 mmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-[3-(4-chlorophenyl)propyl]-[2-(4-methanesulfonylbenzoylamino)cyclopentyl]carbamic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](CCC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)CCCC1=CC=C(C=C1)Cl)=O | C27H35ClN2O5S
